US07838543B2
Step 1. 4-Cyclopent-1-enyl-benzoic Acid
In a sealed tube is added 4-iodobenzoic acid (5.0 g, 20.16 mmol), cyclopentene (17.8 mL, 2101.6 mmol), Et3N (8.4 mL, 60.48 mmol) in toluene (100 mL). It is purged with N2 for 15 min. Pd(OAc)2 (0.23 g, 1.01 mmol) and P(o-Tol)3 (0.61 g, 2.01 mmol) are added. The reaction is stirred at 120° C. overnight. It is diluted with EtOAc, washed with 1M HCl, H2O, and brine. Purification of the crude material by chromatography gives the title compound (2.63 g, 69%).

reactant | 4-iodobenzoic acid | 20.16 mmol, 5.0 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | cyclopentene | 2101.6 mmol, 17.8 mL | C1=CCCC1 | C5H8
reactant | Et3N | 60.48 mmol, 8.4 mL | CCN(CC)CC | C6H15N
reactant | P(o-Tol)3 | 2.01 mmol, 0.61 g | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 1.01 mmol, 0.23 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-Cyclopent-1-enyl-benzoic Acid | 2.63 g, 69% | C1(=CCCC1)C1=CC=C(C(=O)O)C=C1 | C12H12O2
